US06900343B1
Dimethylsilanediylbis(2-methylindenyl)zirconium Monochloride mono(2,4-dimethylphenoxide) (5)
1.0 g (8.2 mmol) of 2,4-dimethylphenol in 20 ml of toluene/2 ml of THF were admixed at room temperature with 3.0 ml (8.2 mmol) of a 20% strength solution of butyllithium in toluene. The mixture was stirred for another 1 hour at 60° C. At room temperature, 1.9 g (4.0 mmol) of dimethylsilanediylbis(2-methylindenyl)zirconium dichloride were added as a solid. The suspension was stirred at 60° C. for 8 hours and subsequently filtered hot through Celite. After evaporation of the solvent to about 7 ml, the yellow solid which had precipitated at −30° C. was filtered off and dried under reduced pressure. This gave 0.65 g (29%) of dimethylsilanediylbis(2-methylindenyl)zirconium monochloride mono(2,4-dimethylphenoxide) (5).

reactant | 2,4-dimethylphenol | 8.2 mmol, 1.0 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | THF | C1CCOC1 | C4H8O
reactant | butyllithium | C(CCC)[Li]
reactant | dimethylsilanediylbis(2-methylindenyl)zirconium dichloride | 4.0 mmol, 1.9 g | [Cl-].[Cl-].C[Zr](C1C(=CC2=CC=CC=C12)C)(C1C(=CC2=CC=CC=C12)C)(=[SiH2])C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Dimethylsilanediylbis(2-methylindenyl)zirconium Monochloride mono(2,4-dimethylphenoxide) | CC1=C([O-])C=CC(=C1)C.[Cl-].C[Zr](C1C(=CC2=CC=CC=C12)C)(C1C(=CC2=CC=CC=C12)C)(=[SiH2])C | InChI=1S/2C10H9.C8H10O.2CH3.ClH.H2Si.Zr/c2*1-8-6-9-4-2-3-5-10(9)7-8;1-6-3-4-8(9)7(2)5-6;;;;;/h2*2-7H,1H3;3-5,9H,1-2H3;2*1H3;1H;1H2;/p-2
